US07915267B2
ethyl 4-{[3-(aminomethyl)phenyl]oxy}butanoate hydrochloride
A mixture of ethyl 4-[(3-cyanophenyl)oxy]butanoate obtained in Reference Example 41 (8.50 g, 36.4 mmol), 10% palladium carbon (containing 50% water)(12.8 g), formic acid (98 mL) and methanol (80 mL) was stirred at room temperature for 5 hr under hydrogen atmosphere (1 atm). The precipitate was filtered off, and the filtrate was concentrated under reduced pressure. 4N Hydrogen chloride/ethyl acetate solution (15.0 mL, 60.0 mmol) was added to the obtained residue, and the mixture was stirred, and concentrated under reduced pressure. The residue was crystallized from toluene, and the crude crystals were recrystallized from diethyl ether to give the title compound as a white powder (7.79 g, 78%).

reactant | ethyl 4-[(3-cyanophenyl)oxy]butanoate | C(#N)C=1C=C(C=CC1)OCCCC(=O)OCC | C13H15NO3
reactant | formic acid | 98 mL | C(=O)O | CH2O2
reactant | Hydrogen chloride ethyl acetate | 60.0 mmol, 4N, 15.0 mL | Cl.C(C)(=O)OCC
catalyst | palladium carbon | 12.8 g | [C].[Pd]
solvent | methanol | 80 mL | CO | CH4O
product | ethyl 4-{[3-(aminomethyl)phenyl]oxy}butanoate hydrochloride | 7.79 g, 78% | Cl.NCC=1C=C(C=CC1)OCCCC(=O)OCC | InChI=1S/C13H19NO3.ClH/c1-2-16-13(15)7-4-8-17-12-6-3-5-11(9-12)10-14;/h3,5-6,9H,2,4,7-8,10,14H2,1H3;1H
